US05679791
Preparation of 4'-Chloro-2'-fluoro-5'-[hexahydro-2,4,6-trioxo-3-(2-propynyl)-s-triazin-1-yl]acetanilide
A mixture of 1-(5-acetamido-2-chloro-4-fluorophenyl)-3-(2-propynyl)urea (4.50 g, 15.9 mmol), and pyridine (2.56 mL, 31.8 mmol) in methylene chloride is treated with N-(chlorocarbonyl) isocyanate (1.92 mL, 23.9 mmol), stirred at room temperature overnight, refluxed for 90 minutes, cooled to room temperature, treated with additional pyridine (1.30 mL) and N-(chlorocarbonyl) isocyanate (1.92 mL), stirred for 10 minutes, cooled to room temperature, and filtered to obtain a solid. The solid is washed sequentially with water and hexanes, and dried to give the title product as a tan solid.

reactant | 1-(5-acetamido-2-chloro-4-fluorophenyl)-3-(2-propynyl)urea | 15.9 mmol, 4.50 g | C(C)(=O)NC=1C(=CC(=C(C1)NC(=O)NCC#C)Cl)F | C12H11ClFN3O2
reactant | pyridine | 31.8 mmol, 2.56 mL | N1=CC=CC=C1 | C5H5N
reactant | N-(chlorocarbonyl) isocyanate | 23.9 mmol, 1.92 mL | C(=NC(=O)Cl)=O | C2ClNO2
reactant | pyridine | 1.30 mL | N1=CC=CC=C1 | C5H5N
reactant | N-(chlorocarbonyl) isocyanate | 1.92 mL | C(=NC(=O)Cl)=O | C2ClNO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4'-Chloro-2'-fluoro-5'-[hexahydro-2,4,6-trioxo-3-(2-propynyl)-s-triazin-1-yl]acetanilide | ClC1=CC(=C(NC(C)=O)C=C1N1C(N(C(NC1=O)=O)CC#C)=O)F | C14H10ClFN4O4
